US05155122
A mixture of 0.5 g (0.002 mole) of 4-[3-(chloromethyl) -1,2,4-oxadiazol-5-yl]-2,6-bis(1,1-dimethylethyl)phenol and 0.4 g (0.006 mole) of pyrrolidine in DMF (10 ml) is stirred at room temperature for three hours. The mixture is poured into ice water (50 ml) and extracted with ethyl acetate (3×25 ml). The organic phase is washed with water (3×40 ml), dried (anhydrous magnesium sulfate), and evaporated, leaving an oil. Purification by flash chromatography (silica gel, ethyl acetate/hexane elution) yields 0.4 g (73%) of analytically pure 2,6-bis(1,1-dimethylethyl) -4-[3-(1-pyrrolidinylmethyl)-1,2,4-oxadiazol5-yl]phenol, mp 100°-102° C.

reactant | 4-[3-(chloromethyl) -1,2,4-oxadiazol-5-yl]-2,6-bis(1,1-dimethylethyl)phenol | 0.002 mole, 0.5 g | ClCC1=NOC(=N1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C17H23ClN2O2
reactant | pyrrolidine | 0.006 mole, 0.4 g | N1CCCC1 | C4H9N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2,6-bis(1,1-dimethylethyl) -4-[3-(1-pyrrolidinylmethyl)-1,2,4-oxadiazol5-yl]phenol | CC(C)(C)C1=C(C(=CC(=C1)C1=NC(=NO1)CN1CCCC1)C(C)(C)C)O | C21H31N3O2
